US06002008
N-[3-Cyano-4-(3-fluorophenylamino)quinolin-6-yl]acrylamide
A solution of 1.00 g (3.60 mmol) of 6-amino-4-(3-fluorophenylamino)quinoline-3-carbonitrile in 12 mL of THF under N2 was chilled in ice. Triethylamine (0.436 g, 4.32 mmol) was added followed by 0.393 g (4.32 mmol) of acryloyl chloride and the reaction was stirred at 25° C. overnight. The solvent was removed and the residue was slurried with water and filtered. The crude product was washed with water, dried, washed with hot ethyl acetate and dried in vacuo (50° C.). This yielded 0.862 g of N-[3-cyano-4-(3-fluorophenylamino)quinolin-6-yl]acrylamide as a brown solid: mass spectrum (electrospray, m/e): M+H 333.1.

reactant | 6-amino-4-(3-fluorophenylamino)quinoline-3-carbonitrile | 3.60 mmol, 1.00 g | NC=1C=C2C(=C(C=NC2=CC1)C#N)NC1=CC(=CC=C1)F | C16H11FN4
reactant | Triethylamine | 4.32 mmol, 0.436 g | C(C)N(CC)CC | C6H15N
reactant | acryloyl chloride | 4.32 mmol, 0.393 g | C(C=C)(=O)Cl | C3H3ClO
solvent | THF | 12 mL | C1CCOC1 | C4H8O
product | N-[3-Cyano-4-(3-fluorophenylamino)quinolin-6-yl]acrylamide | C(#N)C=1C=NC2=CC=C(C=C2C1NC1=CC(=CC=C1)F)NC(C=C)=O | C19H13FN4O
